US07368578B2
To a mixture of methyl 3-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}phenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzoate (0.29 g), tetraethyl methylenediphosphonate (0.18 g) and N,N-dimethylformamide (10 mL) was added sodium hydride (60% in oil, 0.03 g) at room temperature, and the mixture was stirred at the same temperature for 15 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give an oily substance (0.28 g) from a fraction eluted with ethyl acetate-hexane (8:1, v/v). To a mixture of the oily substance, tetrahydrofuran (2 mL) and methanol (2 mL) was added 1N aqueous sodium hydroxide solution (2 mL), and the mixture was stirred at 60° C. for 1 hr. To the reaction mixture was added dilute hydrochloric acid to acidify the solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 3-[4-({4-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]phenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]benzoic acid as colorless crystals (0.23 g, yield 88%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 153-155° C.

reactant | methyl 3-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}phenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzoate | 0.29 g | C(=O)C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC=C(OCC=2N=C(OC2C)C=2C=C(C(=O)OC)C=CC2)C=C1 | C30H25N3O6
reactant | tetraethyl methylenediphosphonate | 0.18 g | C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H22O6P2
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.03 g | [H-].[Na+]
solvent | Water | O | H2O
product | 3-[4-({4-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]phenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]benzoic acid | 0.23 g, yield 88% | C(C)OP(=O)(OCC)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC=C(OCC=2N=C(OC2C)C=2C=C(C(=O)O)C=CC2)C=C1 | C34H34N3O8P
